US06140332
Step 1.1: 2-(5-Amino-4-ethoxycarbonyl-1H-pyrrol-2-yl)-N-benzyl-pyridinium bromide
Under an argon atmosphere, 658 mg (2.0 mmol) of N-benzyl-2-bromo-pyridinium bromide (for preparation see: J. Heterocyclic Chem. 28, 1083 (1991)) are introduced into 20 ml of abs. methylene chloride, and 308 mg (2.0 mmol) of 2-amino-pyrrole-3-carboxylic acid ethyl ester [for preparation see: J. Heterocyclic Chem. 23, 1555 (1986)] are added thereto. The reaction mixture is stirred for 2 days with the exclusion of light. Since the reaction is not complete, 232 μl (2 mmol) of 2,6-lutidine and a further 0.20 mmol of 2-amino-pyrrole-3-carboxylic acid ethyl ester are added. After a further 12 hours' stirring, the reaction mixture is concentrated by evaporation and the residue is digested in isopropanol. Filtering, washing with hexane and drying yield the title compound which, according to its 1H-NMR spectrum, still contains approximately 10% N-benzyl-2-bromo-pyridinium bromide; 1H-NMR (300 MHz, DMSO-d6): 11.45 (1H), 8.70 (d, J=7, 1H), 8.38 (t, J=7, 1H), 8.00 (d, J=7, 1H), 7.67 (t, J=7, 1H), 7.42 (m, 3H), 7.14 (d, J=7, 2H), 6.85 (d, J=3, 1H), 6.45 (sb, 2H), 5.91 (s, 2H), 4.13 (q, J=7, 2H), 1.19 (t, J=7, 3H); FAB-MS: (M+H)+ =322.

reactant | N-benzyl-2-bromo-pyridinium bromide | 2.0 mmol, 658 mg | [Br-].C(C1=CC=CC=C1)[N+]1=C(C=CC=C1)Br
reactant | 2-amino-pyrrole-3-carboxylic acid ethyl ester | 2.0 mmol, 308 mg | C(C)OC(=O)C1=C(NC=C1)N | C7H10N2O2
reactant | 2,6-lutidine | 2 mmol, 232 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-amino-pyrrole-3-carboxylic acid ethyl ester | 0.20 mmol | C(C)OC(=O)C1=C(NC=C1)N | C7H10N2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(5-Amino-4-ethoxycarbonyl-1H-pyrrol-2-yl)-N-benzyl-pyridinium bromide | [Br-].NC1=C(C=C(N1)C1=[N+](C=CC=C1)CC1=CC=CC=C1)C(=O)OCC | InChI=1S/C19H19N3O2.BrH/c1-2-24-19(23)15-12-16(21-18(15)20)17-10-6-7-11-22(17)13-14-8-4-3-5-9-14;/h3-12H,2,13H2,1H3,(H2,20,21);1H
